US04331676
2.2 g (20 mmol) of triethylamine and a solution of 1.4 ml (10 mmol) of isobutyl chloroformate in 20 ml of dry methylene chloride are added dropwise, in succession, to a solution, cooled to -10°, of 2.37 g (10 mmol) of 4-benzyloxycarbonylaminobutyric acid in 50 ml of dry methylene chloride. The reaction mixture is stirred for one hour at -10° and then a strong current of hydrogen sulphide is passed through for 11/2 hours. After warming to room temperature, the mixture is cooled again and acidified with 2 N sulphuric acid. The organic phase is separated, dried and concentrated in vacuo. The 4-benzyloxycarbonylaminothiobutyric acid obtained can be used without further purification.

reactant | triethylamine | 20 mmol, 2.2 g | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 10 mmol, 1.4 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 4-benzyloxycarbonylaminobutyric acid | 10 mmol, 2.37 g | C(C1=CC=CC=C1)OC(=O)NCCCC(=O)O | C12H15NO4
reactant | hydrogen sulphide | S | H2S
reactant | sulphuric acid | 2 N | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-benzyloxycarbonylaminothiobutyric acid | C(C1=CC=CC=C1)OC(=O)NCCCC(=S)O | C12H15NO3S
